US06936602B1
One droplet of DMF was added to a solution of 1-[(1-ethylpyrazol-4-yl)methyl]-7-(4-propoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (330 mg) in dichloromethane (15 ml). Then, thionyl chloride (118 mg) was added thereto at 0° C., the temperature was returned to room temperature, and the mixture was stirred for 1 hour under nitrogen atmosphere. Then, this solution was added to a solution of 4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]aniline (219 mg) and triethylamine (2.01 g) in dichloromethane (15 ml) at 0° C. The mixture was stirred at room temperature for overnight under nitrogen atmosphere, water was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was separated and purified with silica gel column chromatography (methanol:ethyl acetate=1:4), which was recrystallized from hexane-ethyl acetate to give 1-[(1-ethylpyrazol-4-yl)methyl]-N-[4-[[N-methyl-N-(tetrahydropyran-5-yl)amino]methyl]phenyl]-7-(4-propoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxamide (362 mg) as yellow crystals.

reactant | DMF | CN(C)C=O | C3H7NO
reactant | 1-[(1-ethylpyrazol-4-yl)methyl]-7-(4-propoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 330 mg | C(C)N1N=CC(=C1)CN1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCC)C(=O)O | C26H29N3O3
reactant | thionyl chloride | 118 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]aniline | 219 mg | CN(C1CCOCC1)CC1=CC=C(N)C=C1 | C13H20N2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | triethylamine | 2.01 g | C(C)N(CC)CC | C6H15N
product | 1-[(1-ethylpyrazol-4-yl)methyl]-N-[4-[[N-methyl-N-(tetrahydropyran-5-yl)amino]methyl]phenyl]-7-(4-propoxyphenyl)-2,3-dihydro-1-benzazepine-4-carboxamide | 362 mg | C(C)N1N=CC(=C1)CN1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCC)C(=O)NC2=CC=C(C=C2)CN(C2CCCOC2)C | C39H47N5O3
